US07696195B2
6c) methyl 8-methyl-2,3-dihydro-1,4-benzodioxin-6-carboxylate
A mixture of 34.0 g (0.19 mol) methyl 3,4-dihydroxy-5-methyl-benzoate, 77.12 g (0.56 mol) K2CO3 and 32.1 mL (0.37 mol) dibromoethane in 500 mL acetonitrile was refluxed for 6 h. The solid was filtered off, washed with 100 mL acetonitrile and the filtrate was evaporated to dryness i.vac. The residue was combined with 500 mL water and 500 mL EtOAc, the phases were separated, the organic phase was dried and evaporated to dryness i. vac. The residue was combined with 120 mL DIPE, the precipitate was suction filtered, washed with 50 mL DIPE and dried.

reactant | methyl 3,4-dihydroxy-5-methyl-benzoate | 0.19 mol, 34.0 g | OC=1C=C(C(=O)OC)C=C(C1O)C | C9H10O4
reactant | K2CO3 | 0.56 mol, 77.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromoethane | 0.37 mol, 32.1 mL | BrC(C)Br | C2H4Br2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | methyl 8-methyl-2,3-dihydro-1,4-benzodioxin-6-carboxylate | CC1=CC(=CC2=C1OCCO2)C(=O)OC | C11H12O4
